US06498165B1
2-[1-Phenylethylamino]-4-[6-phenylaminocarbonyl-benzimidazol-1-yl]pyrimidine
The title compound was prepared from aniline and 2-[(S)-1-phenylethylamino]-4-[6-carboxy-benzimidazol-1-yl]pyrimidine according to the procedure described in EXAMPLE 107. Partial 1H NMR (500 MHz CD3OD): δ 8.72 (br, 1H); 8.55 (br, 1H); 8.32 (br, 1H); 8.18 (s, 1H); 7.83 (d J=7.5 Hz, 1H); 7.76 (d J=7.5 Hz, 1H); 7.70 (d J=7.0 Hz, 2H); 6.78 (δ J=5.0 Hz, 1H); 5.23 (br, 1H); 1.63 (d J=6.0 Hz, 3H).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-[(S)-1-phenylethylamino]-4-[6-carboxy-benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)O | C20H17N5O2
product | 2-[1-Phenylethylamino]-4-[6-phenylaminocarbonyl-benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)NC2=CC=CC=C2 | C26H22N6O
